*NDP603AL ELECTRICAL MODEL
* ----------------------
.SUBCKT  NDP603AL 20  10  30
Rg     10    1    3
M1      2    1    3    3    DMOS    L=1u   W=1u
.MODEL DMOS NMOS (VTO={1.8*{-0.00336*TEMP+1.084}}  KP={-0.03*TEMP+18.75}
+ THETA=0.086  VMAX=1.4E5  LEVEL=3)
Cgs     1    3    800p
Rd     20    4    2m TC=0.00424
Dds     3    4    DDS
.MODEL     DDS    D(BV={30*{0.00068*TEMP+0.983}}   M=0.377  CJO=1083p   VJ=1.22)
Dbody   3   20    DBODY
.MODEL   DBODY    D(IS=1.4E-13   N=1   RS=37.9m   TT=55n)
Ra      4    2    7m TC=0.00424
Rs      3    5    1m
Ls      5    30   5n
M2      1    8    6    6   INTER
E2      8    6    4    1   2
.MODEL   INTER    NMOS(VTO=0  KP=10   LEVEL=1)
Cgdmax  7    4    1700p
Rcgd    7    4    10meg
Dgd     6    4    DGD
Rdgd    4    6    10meg
.MODEL     DGD    D(M=0.5   CJO=1700p   VJ=0.193)
M3      7    9    1    1   INTER
E3      9    1    4    1   -2
.ENDS NDP603AL
*
.SUBCKT   603ALTHM   50  40  100

Rop       50   60   1meg                         ; From input power, use ideal
Cop       60   70   1u   IC=0                    ; opamp to get energy W(t),
E_W       40   70   40   60  1meg                ; assume Rin=infinite & Ro=0

E_Pave    80   40   VALUE = {V(40,70)/(TIME+1n)} ; Get average power by W(t)/t
R80       80   40   1k

E_Tjc    100   40   VALUE = {V(80,40)*3*V(90,40)}; Tja=Pave(t)*RJA*rja(t)
R100     100   40   1k                             ; where RJA=35 deg/W

R90       90   40   1k
E_rjc     90   40   table {TIME}                  ; Normalized NDP603AL Single Pulsed rjc(t)
+ (0.00001, 0.022853)
+ (0.000015, 0.02799)
+ (0.00002, 0.03232)
+ (0.00003, 0.039583)
+ (0.00004, 0.045707)
+ (0.00005, 0.051102)
+ (0.00007, 0.060465)
+ (0.0001, 0.072269)
+ (0.0002, 0.102204)
+ (0.000299, 0.125874)
+ (0.0004, 0.145186)
+ (0.0005, 0.161404)
+ (0.000698, 0.191381)
+ (0.001, 0.228536)
+ (0.0015, 0.279898)
+ (0.002001, 0.321014)
+ (0.002995, 0.383532)
+ (0.004, 0.43045)
+ (0.005, 0.466497)
+ (0.007019, 0.518902)
+ (0.01, 0.567218)
+ (0.01479, 0.614871)
+ (0.020815, 0.654644)
+ (0.030075, 0.693922)
+ (0.040382, 0.723533)
+ (0.049664, 0.742936)
+ (0.069676, 0.774638)
+ (0.100235, 0.808819)
+ (0.149725, 0.844508)
+ (0.199661, 0.869305)
+ (0.297795, 0.898022)
+ (0.398993, 0.91482)
+ (0.499729, 0.925716)
+ (0.700469, 0.940445)
+ (0.998995, 0.955408)
+ (1.5, 0.968511)
+ (1.99706, 0.975731)
+ (3, 0.984415)
+ (4, 0.989822)
+ (5, 0.992366)
+ (7, 0.994063)
+ (10, 1)
.ENDS 603ALTHM
*
