* NDP7060L ELECTRICAL MODEL (TO-220 N-Ch DMOS)
* -------------------------
.SUBCKT  NDP7060L  20  10  30
Rg     10    1    3
M1      2    1    3    3    DMOS    L=1u   W=1u
.MODEL DMOS NMOS (VTO={1.3*{-0.0036*TEMP+1.09}}  KP={-0.18*TEMP+74.5}
+  THETA=0.086 VMAX=3.8E5  LEVEL=3)
Cgs     1    3    2500p
Rd     20    4    1m TC=0.0066
Dds     3    4    DDS
.MODEL     DDS    D(BV={60*{0.00088*TEMP+0.978}}   M=0.37  CJO=2030p   VJ=1.26)
Dbody   3   20    DBODY
.MODEL   DBODY    D(IS=1.4E-13   N=1   RS=25.6m   TT=130n)
Ra      4    2    4m TC=0.0066
Rs      3    5    1.37m
Ls      5    30   5n
M2      1    8    6    6   INTER
E2      8    6    4    1   2
.MODEL   INTER    NMOS(VTO=0  KP=10   LEVEL=1)
Cgdmax  7    4    4800p
Rcgd    7    4    10meg
Dgd     6    4    DGD
Rdgd    4    6    10meg
.MODEL     DGD    D(M=0.54   CJO=24000p   VJ=0.039)
M3      7    9    1    1   INTER
E3      9    1    4    1   -2
.ENDS NDP7060L
*
.SUBCKT   7060LTHM   50  40  100

Rop       50   60   1meg                         ; From input power, use ideal
Cop       60   70   1u   IC=0                    ; opamp to get energy W(t),
E_W       40   70   40   60  1meg                ; assume Rin=infinite & Ro=0

E_Pave    80   40   VALUE = {V(40,70)/(TIME+1n)} ; Get average power by W(t)/t
R80       80   40   1k

E_Tjc    100   40   VALUE = {V(80,40)*1*V(90,40)}; Tjc=Pave(t)*RJC*rjc(t)
R100     100   40   1k

R90       90   40   1k
E_rjc     90   40   table {TIME}                 ; Normalized NDx7060L Single Pulsed rjc(t)
+ (0.000010, 0.012425)
+ (0.000015, 0.015218)
+ (0.000020, 0.017572)
+ (0.000030, 0.021521)
+ (0.000040, 0.024851)
+ (0.000050, 0.027784)
+ (0.000070, 0.032874)
+ (0.000100, 0.039292)
+ (0.000200, 0.055568)
+ (0.000300, 0.068056)
+ (0.000400, 0.078585)
+ (0.000500, 0.087860)
+ (0.000700, 0.103958)
+ (0.001000, 0.124253)
+ (0.001500, 0.152179)
+ (0.002000, 0.175721)
+ (0.003000, 0.215213)
+ (0.004000, 0.246135)
+ (0.005000, 0.271284)
+ (0.007000, 0.308802)
+ (0.010000, 0.335498)
+ (0.015000, 0.385281)
+ (0.020000, 0.417316)
+ (0.030000, 0.475758)
+ (0.040000, 0.513766)
+ (0.050000, 0.541558)
+ (0.070000, 0.603247)
+ (0.100000, 0.667532)
+ (0.200000, 0.781818)
+ (0.300000, 0.845887)
+ (0.400000, 0.888312)
+ (1.000000, 0.931818)
+ (1.500000, 0.942641)
+ (2.000000, 0.951299)
+ (3.000000, 0.970779)
.ENDS  7060LTHM
*
